US05064819
A mixture of 14.76 g (0.12 mol) of 3-aminopropylphosphonous acid and 96.72 g (0.6 mol) of hexamethyldisilazane is refluxed under an atmosphere of argon with stirring for 16 hours to give a solution. To this solution are added at reflux 60 ml of diethyleneglycol dimethylether and the solution is refluxed for additional 2 hours. The reaction is cooled to 120° and 38.75 g (0.3 mol) of N-ethyl-diisopropyl-amine are added within 20 minutes followed by addition of 54.06 g (0.3 mol) of isobutyl iodide over a period of 20 minutes. The reaction mixture is heated with stirring for 22 hours. After cooling to 10°, the white precipitate is filtered off and the filtrate is evaporated under reduced pressure. The clear solution is cooled, diluted with dichloromethane (300 ml) and extracted three times with 2 N hydrochloric acid (3×100 ml). The combined hydrochloric acid-extracts are evaporated in vacuo to dryness, and re-evaporated twice with water (2×100 ml) to give a white solid, which is suspended in 600 ml of acetone and stirred for 1 hour at 20°. 3-Aminopropyl(isobutyl)phosphinic acid hydrochloride (25.3 g), m.p. 149°-155°, is isolated by filtration. After recrystallisation from n-propanol/acetone (200/100 ml) pure 3-aminopropyl(isobutyl)phosphinic acid hydrochloride of m.p. 154°-156°, is obtained, 15.4 g of 3-aminopropyl(isobutyl)phosphinic acid hydrochloride are dissolved in 75 ml of methanol and 300 ml of propylenoxide are added with stirring. After standing overnight at 4°, a white solid precipitates. The precipitate is collected by filtration and recrystallized from n-propanol to give pure 3-aminopropyl(isobutyl)phosphinic acid, m.p. 250°-253° (dec.).

reactant | 3-aminopropyl(isobutyl)phosphinic acid hydrochloride | 15.4 g | Cl.NCCCP(O)(=O)CC(C)C
reactant | propylenoxide | 300 ml | C1C(C)O1 | C3H6O
solvent | methanol | 75 ml | CO | CH4O
product | 3-aminopropyl(isobutyl)phosphinic acid | NCCCP(O)(=O)CC(C)C | C7H18NO2P
